US05442047
To 250 ml of water, warmed to 60°-70° C., was added 56.1 gm (0.55 mole) of pivalic acid (trimethylacetic acid). Then 31.25 gm (0.25 mole) of zinc carbonate was added portionwise over a period of 10 to 15 minutes and then the temperature was raised to 96°-98° C. After agitating the reaction mixture for 1 hour, the mixture was cooled to 4° C. with an ice bath for 30 minutes and the suspension filtered. The filter cake was washed once with 75 ml cold water and 3×50 ml cold acetone. The resulting product was dried at 60° C. for 16 hours in a draft oven to yield 58 gm (87%) of zinc pivaloate.

reactant | pivalic acid | 0.55 mole, 56.1 gm | C(C(C)(C)C)(=O)O | C5H10O2
reactant | zinc carbonate | 0.25 mole, 31.25 gm | C([O-])([O-])=O.[Zn+2]
solvent | water | 250 ml | O | H2O
product | zinc pivaloate | 58 gm, 87% | C(C(C)(C)C)(=O)[O-].[Zn+2].C(C(C)(C)C)(=O)[O-] | InChI=1S/2C5H10O2.Zn/c2*1-5(2,3)4(6)7;/h2*1-3H3,(H,6,7);/q;;+2/p-2
